* File: G4_MUX2_N1.pex.netlist.pex
* Created: Wed Mar  9 17:10:36 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_MUX2_N1_VDD 2 4 6 8 10 12 14 18 20 38 49 58 84 85 87 89 93 95 96
+ 99 101 105 107 111 113 115 120 122 124 125 126 127 128 134 139 148 Vss
c140 148 Vss 0.00577129f
c141 139 Vss 0.00441689f
c142 134 Vss 0.00586273f
c143 128 Vss 3.56526e-19
c144 127 Vss 2.39889e-19
c145 126 Vss 4.22747e-19
c146 125 Vss 2.39889e-19
c147 122 Vss 0.00188211f
c148 120 Vss 0.00629792f
c149 115 Vss 0.00178287f
c150 113 Vss 0.00614865f
c151 111 Vss 6.94069e-19
c152 107 Vss 0.00775764f
c153 105 Vss 0.001258f
c154 101 Vss 0.00169538f
c155 99 Vss 4.33371e-19
c156 96 Vss 6.1175e-19
c157 95 Vss 0.00337348f
c158 93 Vss 0.00135966f
c159 89 Vss 0.00148319f
c160 87 Vss 0.00118366f
c161 85 Vss 0.00653402f
c162 84 Vss 0.00317212f
c163 83 Vss 0.00175227f
c164 59 Vss 0.0798032f
c165 58 Vss 0.102888f
c166 49 Vss 0.0346129f
c167 48 Vss 0.100303f
c168 39 Vss 0.0355046f
c169 38 Vss 0.100457f
c170 20 Vss 0.00271849f
c171 18 Vss 0.0807095f
c172 14 Vss 0.0816769f
c173 12 Vss 0.00155055f
c174 10 Vss 0.0815741f
c175 8 Vss 0.0807057f
c176 6 Vss 0.0842982f
c177 4 Vss 0.0825471f
c178 2 Vss 0.00231862f
r179 121 128 0.551426
r180 121 122 4.16786
r181 120 128 0.551426
r182 119 120 13.3371
r183 115 128 0.0828784
r184 115 117 1.82344
r185 114 127 0.494161
r186 113 119 0.652036
r187 113 114 10.1279
r188 111 148 1.16709
r189 109 127 0.128424
r190 109 111 2.16729
r191 108 126 0.494161
r192 107 122 0.652036
r193 107 108 13.0037
r194 103 126 0.128424
r195 103 105 4.83471
r196 102 125 0.494161
r197 101 127 0.494161
r198 101 102 4.58464
r199 99 139 1.16709
r200 97 125 0.128424
r201 97 99 2.16729
r202 95 126 0.494161
r203 95 96 7.46046
r204 93 134 1.16709
r205 91 96 0.652036
r206 91 93 2.16729
r207 87 89 1.82344
r208 86 124 0.326018
r209 85 125 0.494161
r210 85 86 10.1279
r211 84 87 0.655813
r212 83 124 0.326018
r213 83 84 4.16786
r214 64 148 0.238214
r215 64 66 1.92555
r216 59 66 0.5835
r217 58 60 0.652036
r218 58 59 2.8008
r219 55 66 0.0685365
r220 51 139 0.238214
r221 49 51 1.45875
r222 48 52 0.652036
r223 48 51 1.45875
r224 45 49 0.652036
r225 41 134 0.238214
r226 39 41 1.45875
r227 38 42 0.652036
r228 38 41 1.45875
r229 35 39 0.652036
r230 20 117 1.16709
r231 18 60 2.5674
r232 14 55 2.5674
r233 12 105 1.16709
r234 10 52 2.5674
r235 8 45 2.5674
r236 6 35 2.5674
r237 4 42 2.5674
r238 2 89 1.16709
.ends

.subckt PM_G4_MUX2_N1_VSS 2 4 6 8 10 12 16 18 20 38 39 48 49 51 59 84 89 94 99
+ 104 109 118 123 132 141 142 146 152 153 158 164 170 172 177 179 181 182 183
+ 184 185 Vss
c132 185 Vss 4.28045e-19
c133 184 Vss 3.62111e-19
c134 183 Vss 3.87529e-19
c135 182 Vss 3.75522e-19
c136 179 Vss 0.00396469f
c137 177 Vss 0.00140343f
c138 172 Vss 0.00128299f
c139 170 Vss 0.00250671f
c140 164 Vss 0.00572414f
c141 158 Vss 0.00417852f
c142 153 Vss 5.94991e-19
c143 152 Vss 0.00253786f
c144 146 Vss 0.00510722f
c145 142 Vss 0.00100335f
c146 141 Vss 0.00361314f
c147 132 Vss 0.00636077f
c148 123 Vss 0.00367258f
c149 118 Vss 0.0040616f
c150 109 Vss 3.31973e-19
c151 104 Vss 0.00116949f
c152 99 Vss 0.00135225f
c153 94 Vss 3.56537e-19
c154 89 Vss 8.02281e-19
c155 84 Vss 0.00135359f
c156 65 Vss 0.0785271f
c157 59 Vss 0.0340359f
c158 58 Vss 0.0688517f
c159 49 Vss 0.0338093f
c160 48 Vss 0.0993447f
c161 39 Vss 0.0341976f
c162 38 Vss 0.0984533f
c163 20 Vss 0.0819076f
c164 18 Vss 0.00227065f
c165 16 Vss 0.0807095f
c166 12 Vss 0.0827078f
c167 10 Vss 0.0826808f
c168 8 Vss 0.00150258f
c169 6 Vss 0.00290641f
c170 4 Vss 0.081612f
c171 2 Vss 0.0842992f
r172 178 185 0.551426
r173 178 179 13.3371
r174 177 185 0.551426
r175 176 177 4.16786
r176 172 185 0.0828784
r177 171 184 0.494161
r178 170 179 0.652036
r179 170 171 4.41793
r180 166 184 0.128424
r181 165 183 0.494161
r182 164 176 0.652036
r183 164 165 13.0037
r184 160 183 0.128424
r185 159 182 0.494161
r186 158 184 0.494161
r187 158 159 10.2946
r188 154 182 0.128424
r189 152 183 0.494161
r190 152 153 7.46046
r191 148 153 0.652036
r192 147 181 0.326018
r193 146 182 0.494161
r194 146 147 10.1279
r195 141 181 0.326018
r196 140 142 0.655813
r197 140 141 4.16786
r198 109 172 1.82344
r199 104 132 1.16709
r200 104 166 2.16729
r201 99 160 4.83471
r202 94 123 1.16709
r203 94 154 2.16729
r204 89 118 1.16709
r205 89 148 2.16729
r206 84 142 1.82344
r207 65 132 0.238214
r208 63 65 1.8672
r209 60 63 0.0685365
r210 58 63 0.5835
r211 58 59 2.8008
r212 55 59 0.652036
r213 51 123 0.238214
r214 49 51 1.45875
r215 48 52 0.652036
r216 48 51 1.45875
r217 45 49 0.652036
r218 41 118 0.238214
r219 39 41 1.45875
r220 38 42 0.652036
r221 38 41 1.45875
r222 35 39 0.652036
r223 20 60 2.5674
r224 18 109 1.16709
r225 16 55 2.5674
r226 12 52 2.5674
r227 10 45 2.5674
r228 8 99 1.16709
r229 6 84 1.16709
r230 4 42 2.5674
r231 2 35 2.5674
.ends

.subckt PM_G4_MUX2_N1_ZI 2 4 6 8 28 50 55 60 65 81 82 91 Vss
c67 82 Vss 9.74571e-19
c68 81 Vss 0.00289684f
c69 65 Vss 0.00556163f
c70 60 Vss 8.37584e-19
c71 55 Vss 0.00123466f
c72 50 Vss 0.00178991f
c73 28 Vss 0.206432f
c74 23 Vss 0.0247918f
c75 8 Vss 0.00143442f
c76 6 Vss 0.00143442f
c77 4 Vss 0.0815973f
c78 2 Vss 0.0715834f
r79 87 91 0.494161
r80 83 91 0.494161
r81 81 91 0.128424
r82 81 82 13.2121
r83 77 82 0.652036
r84 60 87 3.66771
r85 55 83 4.33457
r86 50 65 1.16709
r87 50 77 2.16729
r88 31 65 0.0476429
r89 29 31 0.326018
r90 29 31 0.1167
r91 28 32 0.652036
r92 28 31 6.7686
r93 27 65 0.357321
r94 23 31 0.326018
r95 23 27 0.40845
r96 8 60 1.16709
r97 6 55 1.16709
r98 4 32 2.5674
r99 2 27 2.15895
.ends

.subckt PM_G4_MUX2_N1_Z 2 18 Vss
c12 18 Vss 2.88294e-19
c13 2 Vss 0.00150258f
r14 2 18 1.16709
.ends

.subckt PM_G4_MUX2_N1_SELI 2 6 8 21 33 35 36 38 43 53 58 72 77 78 Vss
c81 78 Vss 6.39942e-19
c82 77 Vss 5.11483e-19
c83 72 Vss 0.00145166f
c84 58 Vss 0.0021541f
c85 53 Vss 0.00198421f
c86 43 Vss 9.80359e-19
c87 38 Vss 0.00153196f
c88 36 Vss 2.15854e-19
c89 35 Vss 0.00258645f
c90 33 Vss 0.00238155f
c91 21 Vss 0.0575125f
c92 6 Vss 0.0575499f
c93 2 Vss 0.00172036f
r94 77 78 0.655813
r95 76 77 3.501
r96 72 76 0.655813
r97 43 53 1.16709
r98 43 72 2.00578
r99 43 46 0.833571
r100 38 58 1.16709
r101 38 78 2.00578
r102 35 46 0.0685365
r103 35 36 7.46046
r104 31 36 0.652036
r105 31 33 5.58493
r106 21 58 0.50025
r107 18 53 0.50025
r108 8 21 1.80885
r109 6 18 1.80885
r110 2 33 1.16709
.ends

.subckt PM_G4_MUX2_N1_SEL 2 4 6 8 16 17 22 26 37 40 41 44 45 46 47 52 58 63 68
+ 73 Vss
c78 73 Vss 0.00176698f
c79 68 Vss 0.00182856f
c80 63 Vss 0.00250521f
c81 58 Vss 7.07944e-19
c82 52 Vss 2.9409e-19
c83 47 Vss 2.03369e-19
c84 46 Vss 3.54223e-19
c85 45 Vss 7.77909e-19
c86 44 Vss 0.00151239f
c87 41 Vss 0.00163463f
c88 37 Vss 0.00192905f
c89 26 Vss 0.0575125f
c90 22 Vss 0.0712295f
c91 20 Vss 0.0247918f
c92 17 Vss 0.0358042f
c93 16 Vss 0.175331f
c94 8 Vss 0.0575125f
c95 2 Vss 0.084915f
r96 58 73 1.16709
r97 58 60 0.5835
r98 55 68 1.16709
r99 52 55 0.5835
r100 50 63 1.16709
r101 47 50 0.5835
r102 45 60 0.0685365
r103 45 46 1.70882
r104 43 46 0.652036
r105 43 44 2.50071
r106 42 52 0.0685365
r107 41 44 0.652036
r108 41 42 1.70882
r109 38 47 0.0685365
r110 38 40 1.62546
r111 37 52 0.0685365
r112 37 40 2.95918
r113 36 63 0.0476429
r114 33 73 0.50025
r115 26 68 0.50025
r116 22 63 0.357321
r117 20 36 0.326018
r118 20 22 0.40845
r119 17 36 6.7686
r120 16 36 0.326018
r121 16 36 0.1167
r122 13 17 0.652036
r123 8 33 1.80885
r124 6 26 1.80885
r125 4 22 2.15895
r126 2 13 2.5674
.ends

.subckt PM_G4_MUX2_N1_B 2 4 14 20 23 Vss
c31 23 Vss 0.00482401f
c32 20 Vss 4.63929e-19
c33 14 Vss 0.0843809f
c34 2 Vss 0.446304f
r35 17 23 1.16709
r36 17 20 0.0364688
r37 14 23 0.238214
r38 11 14 1.92555
r39 7 11 0.0685365
r40 4 7 2.5674
r41 2 4 12.837
.ends

.subckt PM_G4_MUX2_N1_A 2 4 14 20 23 Vss
c25 23 Vss 0.00557714f
c26 20 Vss 2.81445e-19
c27 14 Vss 0.0830192f
c28 2 Vss 0.44929f
r29 17 23 1.16709
r30 17 20 0.0729375
r31 12 23 0.238214
r32 12 14 1.92555
r33 7 14 0.0685365
r34 2 4 12.837
r35 2 7 2.5674
.ends

