* File: G4_MUX2_N2.pex.netlist.pex
* Created: Tue Mar 15 11:14:18 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_MUX2_N2_VDD 2 4 6 8 10 12 14 16 18 20 38 49 51 58 64 72 77 81 84
+ 85 89 93 95 96 99 101 105 107 111 113 115 120 122 124 125 126 127 128 134 139
+ 148 Vss
c133 148 Vss 0.00699273f
c134 139 Vss 0.00445774f
c135 134 Vss 0.00494975f
c136 128 Vss 4.52364e-19
c137 127 Vss 2.39889e-19
c138 126 Vss 4.2334e-19
c139 125 Vss 2.39889e-19
c140 122 Vss 0.00207203f
c141 120 Vss 0.00831709f
c142 115 Vss 0.00192f
c143 113 Vss 0.00621353f
c144 111 Vss 7.23227e-19
c145 107 Vss 0.00783849f
c146 105 Vss 0.0013925f
c147 101 Vss 0.00172494f
c148 99 Vss 3.98903e-19
c149 96 Vss 6.1175e-19
c150 95 Vss 0.00348383f
c151 93 Vss 0.00103115f
c152 89 Vss 0.0016395f
c153 86 Vss 0.00175544f
c154 85 Vss 0.00656595f
c155 84 Vss 0.0047574f
c156 81 Vss 0.00425172f
c157 77 Vss 0.00710807f
c158 72 Vss 0.00394783f
c159 64 Vss 9.76046e-20
c160 59 Vss 0.0805856f
c161 58 Vss 0.104002f
c162 51 Vss 1.36639e-19
c163 49 Vss 0.035607f
c164 48 Vss 0.101298f
c165 39 Vss 0.0367217f
c166 38 Vss 0.101451f
c167 18 Vss 0.134291f
c168 16 Vss 0.00143442f
c169 14 Vss 0.136641f
c170 10 Vss 0.134979f
c171 8 Vss 0.134694f
c172 6 Vss 0.136393f
c173 4 Vss 0.134706f
r174 121 128 0.551426
r175 121 122 4.58464
r176 120 128 0.551426
r177 119 120 15.5878
r178 115 128 0.0828784
r179 115 117 1.82344
r180 114 127 0.494161
r181 113 119 0.652036
r182 113 114 10.1279
r183 111 148 1.16709
r184 109 127 0.128424
r185 109 111 2.16729
r186 108 126 0.494161
r187 107 122 0.652036
r188 107 108 13.0037
r189 103 126 0.128424
r190 103 105 5.2515
r191 102 125 0.494161
r192 101 127 0.494161
r193 101 102 4.58464
r194 99 139 1.16709
r195 97 125 0.128424
r196 97 99 2.16729
r197 95 126 0.494161
r198 95 96 7.46046
r199 93 134 1.16709
r200 91 96 0.652036
r201 91 93 2.16729
r202 87 124 0.306046
r203 87 89 1.82344
r204 85 125 0.494161
r205 85 86 10.1279
r206 84 124 0.349767
r207 83 86 0.652036
r208 83 84 4.58464
r209 81 117 1.16709
r210 77 105 1.16709
r211 72 89 1.16709
r212 64 148 0.0476429
r213 64 66 1.92555
r214 59 66 0.5835
r215 58 60 0.652036
r216 58 59 2.8008
r217 55 66 0.0685365
r218 51 139 0.0476429
r219 49 51 1.45875
r220 48 52 0.652036
r221 48 51 1.45875
r222 45 49 0.652036
r223 41 134 0.0476429
r224 39 41 1.45875
r225 38 42 0.652036
r226 38 41 1.45875
r227 35 39 0.652036
r228 20 81 0.185659
r229 18 60 3.8511
r230 16 77 0.185659
r231 14 55 3.8511
r232 12 77 0.185659
r233 10 52 3.8511
r234 8 45 3.8511
r235 6 35 3.8511
r236 4 42 3.8511
r237 2 72 0.185659
.ends

.subckt PM_G4_MUX2_N2_VSS 2 4 6 8 10 12 14 16 18 20 38 39 41 48 49 59 72 77 81
+ 84 89 94 99 104 109 118 123 132 141 142 146 152 153 158 164 170 172 177 179
+ 181 182 183 184 185 Vss
c128 185 Vss 4.28045e-19
c129 184 Vss 3.62111e-19
c130 183 Vss 3.88979e-19
c131 182 Vss 3.21876e-19
c132 179 Vss 0.00491274f
c133 177 Vss 0.00148831f
c134 172 Vss 0.00130997f
c135 170 Vss 0.0025874f
c136 164 Vss 0.00591751f
c137 158 Vss 0.00396568f
c138 153 Vss 5.94991e-19
c139 152 Vss 0.00255814f
c140 146 Vss 0.00513861f
c141 142 Vss 0.00102564f
c142 141 Vss 0.00403723f
c143 132 Vss 0.00811196f
c144 123 Vss 0.00369111f
c145 118 Vss 0.00399678f
c146 109 Vss 4.35064e-19
c147 104 Vss 0.00132832f
c148 99 Vss 0.00135757f
c149 94 Vss 4.3806e-19
c150 89 Vss 9.57033e-19
c151 84 Vss 0.00151444f
c152 81 Vss 0.00400382f
c153 77 Vss 0.00617013f
c154 72 Vss 0.00549529f
c155 65 Vss 0.0783825f
c156 59 Vss 0.0350566f
c157 58 Vss 0.0688416f
c158 49 Vss 0.0347733f
c159 48 Vss 0.100344f
c160 41 Vss 9.8832e-20
c161 39 Vss 0.0350852f
c162 38 Vss 0.0994129f
c163 20 Vss 0.135394f
c164 16 Vss 0.134482f
c165 14 Vss 0.00143442f
c166 12 Vss 0.134697f
c167 10 Vss 0.135146f
c168 4 Vss 0.134814f
c169 2 Vss 0.13402f
r170 178 185 0.551426
r171 178 179 15.5878
r172 177 185 0.551426
r173 176 177 4.58464
r174 172 185 0.0828784
r175 171 184 0.494161
r176 170 179 0.652036
r177 170 171 4.41793
r178 166 184 0.128424
r179 165 183 0.494161
r180 164 176 0.652036
r181 164 165 13.0037
r182 160 183 0.128424
r183 159 182 0.494161
r184 158 184 0.494161
r185 158 159 10.2946
r186 154 182 0.128424
r187 152 183 0.494161
r188 152 153 7.46046
r189 148 153 0.652036
r190 147 181 0.326018
r191 146 182 0.494161
r192 146 147 10.1279
r193 141 181 0.326018
r194 140 142 0.655813
r195 140 141 4.58464
r196 109 172 1.82344
r197 104 132 1.16709
r198 104 166 2.16729
r199 99 160 5.2515
r200 94 123 1.16709
r201 94 154 2.16729
r202 89 118 1.16709
r203 89 148 2.16729
r204 84 142 1.82344
r205 81 109 1.16709
r206 77 99 1.16709
r207 72 84 1.16709
r208 65 132 0.0476429
r209 63 65 1.8672
r210 60 63 0.0685365
r211 58 63 0.5835
r212 58 59 2.8008
r213 55 59 0.652036
r214 51 123 0.0476429
r215 49 51 1.45875
r216 48 52 0.652036
r217 48 51 1.45875
r218 45 49 0.652036
r219 41 118 0.0476429
r220 39 41 1.45875
r221 38 42 0.652036
r222 38 41 1.45875
r223 35 39 0.652036
r224 20 60 3.8511
r225 18 81 0.185659
r226 16 55 3.8511
r227 14 77 0.185659
r228 12 52 3.8511
r229 10 45 3.8511
r230 8 77 0.185659
r231 6 72 0.185659
r232 4 35 3.8511
r233 2 42 3.8511
.ends

.subckt PM_G4_MUX2_N2_ZI 2 4 6 8 10 12 27 28 43 47 50 55 60 65 81 82 91 Vss
c67 82 Vss 9.49146e-19
c68 81 Vss 0.00328207f
c69 65 Vss 0.00492924f
c70 60 Vss 0.00114673f
c71 55 Vss 0.00119934f
c72 50 Vss 0.00186152f
c73 47 Vss 0.00662602f
c74 43 Vss 0.00662602f
c75 28 Vss 0.204565f
c76 27 Vss 9.8832e-20
c77 23 Vss 0.0247918f
c78 12 Vss 0.00143442f
c79 10 Vss 0.00143442f
c80 4 Vss 0.134965f
c81 2 Vss 0.126125f
r82 87 91 0.494161
r83 83 91 0.494161
r84 81 91 0.128424
r85 81 82 13.2121
r86 77 82 0.652036
r87 60 87 4.58464
r88 55 83 5.2515
r89 50 65 1.16709
r90 50 77 2.16729
r91 47 60 1.16709
r92 43 55 1.16709
r93 31 65 0.0476429
r94 29 31 0.326018
r95 29 31 0.1167
r96 28 32 0.652036
r97 28 31 6.7686
r98 27 65 0.357321
r99 23 31 0.326018
r100 23 27 0.40845
r101 12 47 0.185659
r102 10 43 0.185659
r103 8 47 0.185659
r104 6 43 0.185659
r105 4 32 3.8511
r106 2 27 3.44265
.ends

.subckt PM_G4_MUX2_N2_Z 2 4 13 16 19 Vss
c13 16 Vss 2.38782e-19
c14 13 Vss 0.00448964f
c15 4 Vss 0.00143442f
r16 16 19 0.0416786
r17 13 16 1.16709
r18 4 13 0.185659
r19 2 13 0.185659
.ends

.subckt PM_G4_MUX2_N2_SELI 2 4 6 8 18 21 29 33 36 38 43 44 52 57 71 76 77 Vss
c77 77 Vss 8.68628e-19
c78 76 Vss 1.71087e-19
c79 71 Vss 0.00181943f
c80 57 Vss 0.00285848f
c81 52 Vss 0.00302696f
c82 44 Vss 0.00257468f
c83 43 Vss 7.72677e-19
c84 38 Vss 0.00166363f
c85 36 Vss 3.84679e-19
c86 33 Vss 0.00302237f
c87 29 Vss 0.00550884f
c88 21 Vss 0.112078f
c89 18 Vss 1.01432e-19
c90 6 Vss 0.112115f
c91 4 Vss 0.00143442f
r92 76 77 0.655813
r93 75 76 3.501
r94 71 75 0.655813
r95 43 52 1.16709
r96 43 71 2.00578
r97 43 44 0.513084
r98 38 57 1.16709
r99 38 77 2.00578
r100 36 44 7.46046
r101 31 36 0.652036
r102 31 33 7.002
r103 29 33 1.16709
r104 21 57 0.50025
r105 18 52 0.50025
r106 8 21 3.09255
r107 6 18 3.09255
r108 4 29 0.185659
r109 2 29 0.185659
.ends

.subckt PM_G4_MUX2_N2_SEL 2 4 6 8 16 17 22 26 33 36 40 41 44 45 47 49 56 57 59
+ 64 69 Vss
c70 69 Vss 0.00270368f
c71 64 Vss 0.00315728f
c72 59 Vss 0.00270998f
c73 57 Vss 3.45787e-19
c74 56 Vss 0.00198364f
c75 49 Vss 3.06667e-19
c76 47 Vss 0.00132431f
c77 45 Vss 4.54881e-19
c78 44 Vss 0.00192809f
c79 41 Vss 0.00173298f
c80 36 Vss 9.81095e-20
c81 33 Vss 1.05421e-19
c82 26 Vss 0.112078f
c83 22 Vss 0.125771f
c84 20 Vss 0.0247918f
c85 17 Vss 0.0358516f
c86 16 Vss 0.176172f
c87 8 Vss 0.112078f
c88 2 Vss 0.139232f
r89 55 64 1.16709
r90 55 57 0.4602
r91 55 56 0.52504
r92 52 59 1.16709
r93 49 52 0.5835
r94 47 69 1.16709
r95 45 47 2.00578
r96 43 45 0.655813
r97 43 44 3.501
r98 41 44 0.655813
r99 41 57 1.49522
r100 40 56 3.04254
r101 38 49 0.0685365
r102 38 40 1.54211
r103 36 59 0.0476429
r104 33 69 0.50025
r105 26 64 0.50025
r106 22 59 0.357321
r107 20 36 0.326018
r108 20 22 0.40845
r109 17 36 6.7686
r110 16 36 0.326018
r111 16 36 0.1167
r112 13 17 0.652036
r113 8 33 3.09255
r114 6 26 3.09255
r115 4 22 3.44265
r116 2 13 3.8511
.ends

.subckt PM_G4_MUX2_N2_B 2 4 14 20 23 Vss
c30 23 Vss 0.00425113f
c31 20 Vss 3.02878e-19
c32 14 Vss 0.0853035f
c33 2 Vss 0.547212f
r34 17 23 1.16709
r35 17 20 0.0729375
r36 14 23 0.0476429
r37 11 14 1.92555
r38 7 11 0.0685365
r39 4 7 3.8511
r40 2 4 15.4044
.ends

.subckt PM_G4_MUX2_N2_A 2 4 12 14 17 23 Vss
c24 23 Vss 0.00254505f
c25 17 Vss 3.13475e-19
c26 14 Vss 0.0661045f
c27 12 Vss 1.05421e-19
c28 2 Vss 0.578847f
r29 20 23 1.16709
r30 17 20 0.0833571
r31 12 23 0.3335
r32 12 14 1.57545
r33 7 14 0.0685365
r34 2 4 15.4044
r35 2 7 4.60965
.ends

